US06608095B2
3-Methyl-4-(1,3-oxazol-4-yl)phenol (step 1)
A mixture of 2-bromo-1-(4-hydroxy-2-methylphenyl)-1-ethanone (18 g, 78 mmol), ammonium fornate (17 g, 273 mmol) in formic acid (100 ml) was heated at reflux temperature for 3 hours. The mixture was cooled down to room temperature and made basic by addition of 50% NaOH aqueous solution at 0° C. The whole was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:5) to give title compound (1.8 g, 13% yield).

reactant | 2-bromo-1-(4-hydroxy-2-methylphenyl)-1-ethanone | 78 mmol, 18 g | BrCC(=O)C1=C(C=C(C=C1)O)C | C9H9BrO2
reactant | ammonium | [NH4+]
reactant | NaOH | [OH-].[Na+]
reactant | formic acid | 100 ml | C(=O)O | CH2O2
product | 3-Methyl-4-(1,3-oxazol-4-yl)phenol | 1.8 g, 13% yield | CC=1C=C(C=CC1C=1N=COC1)O | C10H9NO2
